US07087612B2
2-[7-(3-Fluoro-benzyloxy)-2-methyl-4-oxo-4H-quinazolin-3-yl]-acetamide
4-(3-Fluoro-benzyloxy)-2-nitro-benzoic acid: A mixture of 4-(3-fluorobenzyloxy)-2-nitro-benzoic acid (3-fluoro-benzyl) ester and 4-(3-fluoro-benzyloxy)-2-nitro-benzoic acid methyl ester (14.0 g, 35.0 mmol) in THF (120 mL) and water (120 mL), containing lithium hydroxide monohydrate (2.94 g, 70.1 mmol) was stirred at rt for 48 h. Then the mixture was poured into sodium hydroxide (2 N, 50 mL) and then the mixture extracted with diethyl ether (3×150 mL). The aqueous phase was then adjusted to pH 2 with HCl. Then the mixture was poured into sodium hydroxide (2 N, 50 mL) and the aqueous phase was then adjusted to pH 5.2 with HCl then the mixture extracted with diethyl ether (3×100 mL). The combined extracts were then washed with brine (100 mL) dried and evaporated to afford title compound (6.6 g, 65%) as a light yellow solid. MS: m/e=290.0 (M−H).

reactant | 4-(3-Fluoro-benzyloxy)-2-nitro-benzoic acid | FC=1C=C(COC2=CC(=C(C(=O)O)C=C2)[N+](=O)[O-])C=CC1 | C14H10FNO5
reactant | 4-(3-fluorobenzyloxy)-2-nitro-benzoic acid (3-fluoro-benzyl) ester | FC=1C=C(COC(C2=C(C=C(C=C2)OCC2=CC(=CC=C2)F)[N+](=O)[O-])=O)C=CC1 | C21H15F2NO5
reactant | 4-(3-fluoro-benzyloxy)-2-nitro-benzoic acid methyl ester | 35.0 mmol, 14.0 g | COC(C1=C(C=C(C=C1)OCC1=CC(=CC=C1)F)[N+](=O)[O-])=O | C15H12FNO5
reactant | lithium hydroxide monohydrate | 70.1 mmol, 2.94 g | O.[OH-].[Li+]
reactant | sodium hydroxide | 2 N, 50 mL | [OH-].[Na+]
reactant | THF | 120 mL | C1CCOC1 | C4H8O
solvent | water | 120 mL | O | H2O
product | 2-[7-(3-Fluoro-benzyloxy)-2-methyl-4-oxo-4H-quinazolin-3-yl]-acetamide | 6.6 g, 65% | FC=1C=C(COC2=CC=C3C(N(C(=NC3=C2)C)CC(=O)N)=O)C=CC1 | C18H16FN3O3
